US07569578B2
(±)-3-(7-Ethyl-3-methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester
A stirred solution of (±)-2-amino-3-(7-ethyl-3 methyl-1H-indazol-5-yl)-propionic acid methyl ester (0.55 g, 2.1 mmol) in tetrahydrofuran (6 mL) at 0° C. was treated with carbonyl diimidazole (0.37 g, 1.1 equiv). The reaction was stirred for 5 min at 0° C., warmed to room temperature, stirred 10 min, and treated with 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one (0.53 g, 1.1 equiv). The mixture was stirred at room temperature overnight. The solvent was evaporated and the residue purified by column chromatography to give 0.94 g (86%) as a white powder. 1H-NMR (DMSO-d6) δ 1.26 (t, J=7.5, 3H), 1.49 (m, 1H), 2.44 (s, 3H), 2.83 (dd, J=7.3, 7.6, 1H), 2.84 (dd, J=115.0, 7.6, 1H), 2.88-3.10 (m, 1.5H), 3.18 (d, J=5.5, 0.5H), 3.61 (s, 3H), 4.04-4.16 (m, 3H), 4.28 (m, 2H), 6.76 (d, J=7.9, 1H), 6.86 (m, 2H), 7.04-7.25 (m, 3H), 7.36 (s, 1H), 7.40 (s, 1H), 9.18 (s, 1H), 12.59 (s, 1H). Mass spec.: 519.37 (MH)+.

reactant | (±)-2-amino-3-(7-ethyl-3 methyl-1H-indazol-5-yl)-propionic acid methyl ester | 2.1 mmol, 0.55 g | COC(C(CC=1C=C2C(=NNC2=C(C1)CC)C)N)=O | C14H19N3O2
reactant | carbonyl diimidazole | 0.37 g, 1.1 equiv | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one | 0.53 g, 1.1 equiv | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | (±)-3-(7-Ethyl-3-methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester | COC(C(CC=1C=C2C(=NNC2=C(C1)CC)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C28H34N6O4
